US05985875
Synthesis of 4-[4-(4-chlorobenzoyl)benzyl]-3,5-dichloroaniline
In 50 ml of ethyl acetate was dissolved 3.25 g of 4-[4-(4-chlorobenzoyl)benzyl]-3,5-dichloronitrobenzene, and 8.00 g of SnCl3.2H2O was added. The reaction mixture was refluxed for 1 hour, and then poured into ice-water. The mixture was alkalified with conc. ammonia solution, and the organic layer was collected by decantation. The aqueous layer was extracted twice with 50 ml of ethyl acetate, and the organic layers were combined, washed with water, dried and concentrated. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/2) to give the above-identified compound as pale brown amorphous powder (yield: 70%).

reactant | 4-[4-(4-chlorobenzoyl)benzyl]-3,5-dichloronitrobenzene | 3.25 g | ClC1=CC=C(C(=O)C2=CC=C(CC3=C(C=C(C=C3Cl)[N+](=O)[O-])Cl)C=C2)C=C1 | C20H12Cl3NO3
reactant | ammonia | N | H3N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-[4-(4-chlorobenzoyl)benzyl]-3,5-dichloroaniline | yield: 70% | ClC1=CC=C(C(=O)C2=CC=C(CC3=C(C=C(N)C=C3Cl)Cl)C=C2)C=C1 | C20H14Cl3NO
